US08211908B2
To a solution of 1.0 g of 1,6-naphthyridin-2(1H)-one in 10 mL of N,N-dimethylformamide, 0.30 g of 60% sodium hydride was added, and the mixture was stirred at 50 to 60° C. for 1 hour. Thereto was added 0.78 mL of 2-bromomethyl-1,3-dioxolan, and the reaction mixture was stirred at 90 to 100° C. for 30 minutes. Thereto were further added 0.30 g of 60% sodium hydride and 0.78 mL of 2-bromomethyl-1,3-dioxolan, and the mixture was stirred at 90 to 108° C. for 5 hours 30 minutes. The reaction mixture was cooled to room temperature, water and chloroform were then added thereto, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=100:1 to obtain 0.60 g of 1-(1,3-dioxolan-2-ylmethyl)-1,6-naphthyridin-2(1H)-one as a yellow solid.

reactant | 1,6-naphthyridin-2(1H)-one | 1.0 g | N1C(C=CC2=CN=CC=C12)=O | C8H6N2O
reactant | sodium hydride | 0.30 g | [H-].[Na+]
reactant | 2-bromomethyl-1,3-dioxolan | 0.78 mL | BrCC1OCCO1 | C4H7BrO2
reactant | sodium hydride | 0.30 g | [H-].[Na+]
reactant | 2-bromomethyl-1,3-dioxolan | 0.78 mL | BrCC1OCCO1 | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(1,3-dioxolan-2-ylmethyl)-1,6-naphthyridin-2(1H)-one | 0.60 g | O1C(OCC1)CN1C(C=CC2=CN=CC=C12)=O | C12H12N2O3
